US08461179B1
A solution of 1-(5-(7-amino-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-chloro-2-fluorophenyl)-3-(3-fluorophenyl)urea (0.07 g, 0.145 mmol) in pyridine (2 mL) was treated with acetyl chloride (0.011 mL, 0.159 mmol) and stirred at RT for 2 h. The mixture was concentrated to dryness, treated with EtOAc, washed with brine, dried over Na2SO4 and concentrated to dryness. The material was treated with Et2O and the solid collected via filtration to afford N-(3-(2-chloro-4-fluoro-5-(3-(3-fluorophenyl)ureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide (65 mg, 84% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.81 (s, 1H), 9.31 (s, 1H), 8.78 (s, 1H), 8.68 (s, 1H), 8.54 (s, 1H), 8.18 (d, J=8.6 Hz, 1H), 7.93 (s, 1H), 7.58 (d, J=11.0 Hz, 1H), 7.46 (dt, J=11.9, 2.3 Hz, 1H), 7.29 (m, 1H), 7.06 (m, 1H), 6.79 (td, J=8.5, 2.6 Hz, 1H), 5.36 (m, 1H), 2.14 (s, 3H), 1.56 (d, J=7.0 Hz, 6H); MS (ESI) m/z: 526.1 [M+H]+.

reactant | 1-(5-(7-amino-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-chloro-2-fluorophenyl)-3-(3-fluorophenyl)urea | 0.145 mmol, 0.07 g | NC1=NC=C2C=C(C(N(C2=C1)C(C)C)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC(=CC=C1)F)F)Cl | C24H20ClF2N5O2
reactant | acetyl chloride | 0.159 mmol, 0.011 mL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-(2-chloro-4-fluoro-5-(3-(3-fluorophenyl)ureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide | 65 mg, 84% yield | ClC1=C(C=C(C(=C1)F)NC(=O)NC1=CC(=CC=C1)F)C=1C(N(C2=CC(=NC=C2C1)NC(C)=O)C(C)C)=O | C26H22ClF2N5O3
